US04192893
(9) 4'-Nitro-2-propoxyacetophenone O-(2-aminoethyl)oxime hydrochloride
10 Mmol of 4'-nitro-2-propoxyacetophenone oxime, 10.4 mmol of 2-chloroethyl amine hydrochloride and 1.4 g of powdered potassium hydroxide were added to 25 ml of dimethyl formamide while stirring at 10° C. After stirring for two days at room temperature the dimethyl formamide was evaporated in vacuo, the residue was brought in water and then 2 N hydrochloric acid was added until pH 3. The remaining oxime was removed by means of ether, after which 30 ml of 2 N sodium hydroxide solution were added. Then three extractions with ether were carried out. The collected ether layers were washed twice with a 5% sodium bicarbonate solution and then dried on sodium sulphate. After removing the ether in vacuo the residue was dissolved in absolute ethanol and converted into the little compound by means of alcoholic hydrochloric acid. After recrystallization from alcohol/ether the melting point was 128°-130° C.

reactant | 4'-nitro-2-propoxyacetophenone oxime | 10 Mmol | [N+](=O)([O-])C1=CC=C(C=C1)C(COCCC)=NO | C11H14N2O4
reactant | 2-chloroethyl amine hydrochloride | 10.4 mmol | Cl.ClCCN
reactant | potassium hydroxide | 1.4 g | [OH-].[K+]
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 25 ml | CN(C=O)C | C3H7NO
product | 4'-Nitro-2-propoxyacetophenone O-(2-aminoethyl)oxime hydrochloride | Cl.NCCON=C(COCCC)C1=CC=C(C=C1)[N+](=O)[O-] | InChI=1S/C13H19N3O4.ClH/c1-2-8-19-10-13(15-20-9-7-14)11-3-5-12(6-4-11)16(17)18;/h3-6H,2,7-10,14H2,1H3;1H
